US05439917
2,3-Dimethyl-7-(p-bromophenacyl)pyrrolo[2,3-b]pyridine, hydrobromide
This compound was prepared by reacting 2,3-dimethylpyrrolo [2,3-b]pyridine with p-bromophenacyl bromide following the procedure in example 8.

reactant | 2,3-dimethylpyrrolo [2,3-b]pyridine | CC1=C(C=2C(=NC=CC2)N1)C | C9H10N2
reactant | p-bromophenacyl bromide | BrC1=CC=C(C(CBr)=O)C=C1 | C8H6Br2O
product | 2,3-Dimethyl-7-(p-bromophenacyl)pyrrolo[2,3-b]pyridine, hydrobromide | Br.CC1=C(C=2C(N(C=CC2)CC(=O)C2=CC=C(C=C2)Br)=N1)C | InChI=1S/C17H15BrN2O.BrH/c1-11-12(2)19-17-15(11)4-3-9-20(17)10-16(21)13-5-7-14(18)8-6-13;/h3-9H,10H2,1-2H3;1H
